US07951794B2
At −75° C., a solution of 4-phenylthiophene-2-carboxylic acid (1.20 g, 5.88 mmol) in THF (15 mL) is treated with tert.-BuLi (10 mL, 1.6 M in pentane). The mixture is stirred at −70° C. for 1 h before 1-iodopropane (1.5 mL) is added. The reaction mixture is allowed to warm to rt and is stirred overnight. The reaction is quenched with sat. aq. NH4Cl (100 mL) and extracted with DCM (2×200 mL). The solvent of the organic extracts is evaporated and the residue is dissolved in DCM (15 mL). TBTU (2.03 g, 6.33 mmol), N,O-dimethylhydroxylamine (760 mg, 7.80 mmol) and DIPEA (2 mL) is added and the mixture is stirred at rt for 72 h before it is washed with water. The organic layer is separated and evaporated. The residue is purified by CC on silica gel eluting with heptane:EA 5:1 to give 4-phenyl-5-propyl-thiophene-2-carboxylic acid methoxy-methyl-amide (900 mg) as colourless oil; LC-MS: tR=1.05 min, [M+1]+=290.15.

reactant | 4-phenylthiophene-2-carboxylic acid | 5.88 mmol, 1.20 g | C1(=CC=CC=C1)C=1C=C(SC1)C(=O)O | C11H8O2S
reactant | BuLi | 1.6 M, 10 mL | [Li]CCCC
reactant | 1-iodopropane | 1.5 mL | ICCC | C3H7I
reactant | TBTU | 6.33 mmol, 2.03 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,O-dimethylhydroxylamine | 7.80 mmol, 760 mg | CNOC | C2H7NO
reactant | DIPEA | 2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-phenyl-5-propyl-thiophene-2-carboxylic acid methoxy-methyl-amide | 900 mg | CON(C(=O)C=1SC(=C(C1)C1=CC=CC=C1)CCC)C | C16H19NO2S
